US09447035B2
Step 2: Preparation of (S)-2-[4-[[3,5-difluoro-4-[(S)-1-carboxy-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid:
To a 200 mL flask containing (S)-2-[4-[[3,5-difluoro-4-[(S)-1-propoxycarbonyl-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid propyl ester (1004 mmg, 0.97 mmol) was added THF (25 mL), water (25 mL) and LiOH (193 mg, 4.6 mmol) and the reaction stirred at room temperature overnight. The reaction was concentrated, dried from acetonitrile yielding a white solid that was mixed with DMSO (13 mL) and water (12 mL). This mixture was heated minimally, filtered and to the filtrate was added TFA (0.25 mL) resulting in a precipitate. The precipitate was diluted with water (50 mL), filtered, washed with water and hexanes and dried on high vacuum yielding the title compound as a white solid (696 mg, 75%). ES(+)-LRMS m/e calcd. for C48H45F4N7O10 (M+H)+ 956, obsd 956.

reactant | (S)-2-[4-[[3,5-difluoro-4-[(S)-1-propoxycarbonyl-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid propyl ester | 0.97 mmol | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)CNCC1=CC(=C(C(=C1)F)C(N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)OCCC)=O)F)F)=O)=O | C54H57F4N7O10
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | LiOH | 4.6 mmol, 193 mg | [Li+].[OH-]
solvent | water | 50 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | (S)-2-[4-[[3,5-difluoro-4-[(S)-1-carboxy-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid | 696 mg, 75% | FC=1C=C(CNCC2=CC(=C(C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C=3C(N(C(N(C3C)C)=O)C)=O)C(=C2)F)F)C=C(C1C(N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O)=O)F | C48H45F4N7O10
